US05464829
Preparation of p-methoxybenzyl 7-[(Z)-2-(2-tritylaminothiazol-4-yl)-2-{(S)-1-diphenylmethoxycarbonylethoxyimino}acetamido]-3-(thiazolo[4,5-b]pyridin-2-yl)thiomethyl-3-cephem-4-carboxylate
Using 305 mg of p-methoxybenzyl 7-[(Z)-2-(2-tritylaminothiazol-4-yl)-2-{(S)-1-diphenylmethoxycarbonylethoxyimino}acetamido]-3-chloromethyl-3-cephem-4-carboxylate and 60 mg of 2-mercaptothiazolo[4,5-b]pyridine in place of p-methoxybenzyl 7-{(Z)-2-(2-tritylaminothiazol-4-yl)-2-methoxyiminoacetamido}-3-chloromethyl-3-cephem-4-carboxylate and 2-mercaptothiazolo[4,5-c]pyridine, respectively, the reaction and purification were carried out in the same manner as in Example 1(a) to obtain 215 mg of the title compound in a yield of 62%.

reactant | p-methoxybenzyl 7-[(Z)-2-(2-tritylaminothiazol-4-yl)-2-{(S)-1-diphenylmethoxycarbonylethoxyimino}acetamido]-3-chloromethyl-3-cephem-4-carboxylate | 305 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)/C(/C(=O)NC1[C@@H]2N(C(=C(CS2)CCl)C(=O)OCC2=CC=C(C=C2)OC)C1=O)=N/O[C@@H](C)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1 | C56H48ClN5O8S2
reactant | 2-mercaptothiazolo[4,5-b]pyridine | 60 mg | SC=1SC=2C(=NC=CC2)N1 | C6H4N2S2
reactant | 2-mercaptothiazolo[4,5-c]pyridine | SC=1SC2=C(C=NC=C2)N1 | C6H4N2S2
product | p-methoxybenzyl 7-[(Z)-2-(2-tritylaminothiazol-4-yl)-2-{(S)-1-diphenylmethoxycarbonylethoxyimino}acetamido]-3-(thiazolo[4,5-b]pyridin-2-yl)thiomethyl-3-cephem-4-carboxylate | 215 mg, yield of 62% | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)/C(/C(=O)NC1[C@@H]2N(C(=C(CS2)CSC=2SC=3C(=NC=CC3)N2)C(=O)OCC2=CC=C(C=C2)OC)C1=O)=N/O[C@@H](C)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1 | C62H51N7O8S4
